US09029545B2
4-[3-(Methyloxy)phenyl]-2-thiophenamine
A mixture of ethyl 2-amino-4-[3-(methyloxy)phenyl]-3-thiophene carboxylate (Description 39) (5 g, 18.03 mmol) and 20% aqueous solution of potassium hydroxide (100 mL, 18.03 mmol) in ethanol (100 mL) was heated at 110° C. for 24 h. After cooling to RT the ethanol was removed under reduced pressure. The residue was poured into water (100 mL) and extracted with ethyl acetate (50 mL×3). The organic layers were combined, washed with brine (100 mL), dried over MgSO4, filtered and evaporated in vacuo. The residue was purified by chromatography on silica, eluting with a gradient of 0-25% ethyl acetate in cyclohexane, to give the title compound (1.83 g). LCMS (A) m/z: 206 [M+1]+, Rt 1.14 min (acidic).

reactant | ethyl 2-amino-4-[3-(methyloxy)phenyl]-3-thiophene carboxylate | 18.03 mmol, 5 g | NC=1SC=C(C1C(=O)OCC)C1=CC(=CC=C1)OC | C14H15NO3S
reactant | potassium hydroxide | 18.03 mmol, 100 mL | [OH-].[K+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-[3-(Methyloxy)phenyl]-2-thiophenamine | 1.83 g | COC=1C=C(C=CC1)C=1C=C(SC1)N | C11H11NOS
